US07105553B2
N-[5-(Aminosulphonyl)-4-methyl-1,3-thiazol-2-yl]-2-(2′-fluoro[1,1′-biphenyl]-4-yl)-N-methylacetamide
At room temperature, 17.33 g (73.3 mmol) of (2′-fluoro[1,1′-biphenyl]4-yl)acetic acid and 9.9 g (73.3 mmol) of 1-hydroxy-1H-benzotriazole hydrate are initially charged in 600 ml of dimethylformamide. 16.84 g (81.4 mmol) of 2-methylamino-4-methyl-1,3-thiazole-5-sulphonamide and 15.58 g (81.4 mmol) of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride are added, and the mixture is stirred at room temperature for 18 h. Most of the dimethylformamide is removed at 50° C. under high vacuum, and the residue is taken up in 400 ml of dichloromethane and then washed with in each case 350 ml of water and 10% citric acid solution. Drying over magnesium sulphate and removal of the solvent under reduced pressure gives the compound of Example 57 in the form of a white solid.

reactant | (2′-fluoro[1,1′-biphenyl]4-yl)acetic acid | 73.3 mmol, 17.33 g | FC1=C(C=CC=C1)C1=CC=C(C=C1)CC(=O)O | C14H11FO2
reactant | 1-hydroxy-1H-benzotriazole hydrate | 73.3 mmol, 9.9 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2-methylamino-4-methyl-1,3-thiazole-5-sulphonamide | 81.4 mmol, 16.84 g | CNC=1SC(=C(N1)C)S(=O)(=O)N | C5H9N3O2S2
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride | 81.4 mmol, 15.58 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | N-[5-(Aminosulphonyl)-4-methyl-1,3-thiazol-2-yl]-2-(2′-fluoro[1,1′-biphenyl]-4-yl)-N-methylacetamide | NS(=O)(=O)C1=C(N=C(S1)N(C(CC1=CC=C(C=C1)C1=C(C=CC=C1)F)=O)C)C | C19H18FN3O3S2
